US07868008B2
7-Chloro-2-[(4,4-difluorocyclohexyl)methyl]-1-oxoisoindoline-5-carbonitrile
5-bromo-7-chloro-2-[(4,4-difluorocyclohexyl)methyl]isoindolin-1-one (1.14 g, 3.01 mmol) was set stirring in DMF (10 mL) under argon and Zn(CN)2 (389 mg, 3.31 mmol) and Pd(PPh3)4 (347 mg, 0.3 mmol) were added. The reaction was stirred at 80° C. for 1.5 hours. The reaction was partitioned between ethyl acetate and water and the organic layer was washed with brine and dried over anhydrous Na2SO4. The solvent was removed under reduced pressure and the product was purified by column chromatography (40% EtOAc/Hexanes) to afford the title compound as a yellow foam (60 mg, 80%). 1H NMR (300 MHz, CDCl3): 7.72 (s, 1H), 7.65 (s, 1H), 4.45 (s, 2H), 3.53 (d, 2H), 2.11-2.15 (m, 2H), 1.66-1.91 (m, 5H), 1.41-1.50 (m, 2H)

reactant | 5-bromo-7-chloro-2-[(4,4-difluorocyclohexyl)methyl]isoindolin-1-one | 3.01 mmol, 1.14 g | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1CCC(CC1)(F)F | C15H15BrClF2NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 3.31 mmol, 389 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.3 mmol, 347 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Chloro-2-[(4,4-difluorocyclohexyl)methyl]-1-oxoisoindoline-5-carbonitrile | 60 mg, 80% | ClC=1C=C(C=C2CN(C(C12)=O)CC1CCC(CC1)(F)F)C#N | C16H15ClF2N2O
